US05089616
N-(4-Morpholinylsulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-L-alanine methyl ester monohydrochloride, 2057.6 g, and 6 L of tetrahydrofuran are charged into a 50 L reactor and stirred to a thick slurry at 0° to 5° C. A solution of 456 g of sodium hydroxide in 11.4 L of water is added over 2 hours at 0° to 5° C. After stirring the reaction mixture for 30 minutes, a solution of 630.8 mL of concentrated hydrochloric acid in 7.6 L of water is added over 2 hours at 0° to 5° C. The product precipitates as a thick slurry, which is filtered and the cake washed with water (2×500 mL). The solid is dried under vacuum at 40° C. to give 1700 g of N-(4-morpholinylsulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-L-alanine as a white solid, 99.5% pure. A second crop of 108 g is obtained of 99.7% purity by HPLC; mp 149°-151° C.

reactant | N-(4-Morpholinylsulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-L-alanine methyl ester monohydrochloride | Cl.COC([C@@H](NC([C@@H](NS(=O)(=O)N1CCOCC1)CC1=CC=CC=C1)=O)CC=1N=C(SC1)N)=O
reactant | tetrahydrofuran | 6 L | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 456 g | [OH-].[Na+]
reactant | hydrochloric acid | 630.8 mL | Cl | ClH
solvent | water | 11.4 L | O | H2O
solvent | water | 7.6 L | O | H2O
product | N-(4-morpholinylsulfonyl)-L-phenylalanyl-3-(2-amino-4-thiazolyl)-L-alanine | 1700 g | N1(CCOCC1)S(=O)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC=1N=C(SC1)N)C(=O)O | C19H25N5O6S2
